US07666871B2
2-{5-Methyl-2-[4-(pyridin-2-ylmethoxy)-phenyl]-oxazol-4-yl}-ethanol
To a mixture of 2-(4-{4-[2-(tert-Butyl-diphenyl-silanyloxy)-ethyl]-5-methyl-oxazol-2-yl}-phenoxymethyl)-pyridine (0.97 g, 1.76 mmol) in THF (20 mL) at 0° C. is added a solution of TBAF in THF (1.0 M, 1.76 mL). The mixture is warmed to room temperature and stirred for 2 h. The mixture is partitioned between EtOAc and water. The aqueous phase is extracted with EtOAc (3×). The combined organic phase is washed with brine (2×), dried (Na2SO4), and concentrated. The residue is purified by flash chromatography (SiO2, elute 0% to 10% MeOH/CH2Cl2) to yield 0.53 g of the title compound. 1H NMR (400 MHz, DMSO-d6) δ 8.6 (dd, 1H), 7.8 (m, 3H), 7.6 (d, 1H), 7.4 (dd, 1H), 7.2 (d, 2H), 5.2 (s, 2H), 3.6 (t, 2H), 2.6 (t, 2H), 2.2 (s, 3H). MS (m/e) 311.1 (M+1)

reactant | 2-(4-{4-[2-(tert-Butyl-diphenyl-silanyloxy)-ethyl]-5-methyl-oxazol-2-yl}-phenoxymethyl)-pyridine | 1.76 mmol, 0.97 g | C(C)(C)(C)[Si](OCCC=1N=C(OC1C)C1=CC=C(OCC2=NC=CC=C2)C=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H36N2O3Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 M, 1.76 mL | C1CCOC1 | C4H8O
product | 2-{5-Methyl-2-[4-(pyridin-2-ylmethoxy)-phenyl]-oxazol-4-yl}-ethanol | 0.53 g | CC1=C(N=C(O1)C1=CC=C(C=C1)OCC1=NC=CC=C1)CCO | C18H18N2O3
